US04910318
To a solution of 4-formyl-5-methyl-2,3,4,5-tetrahydrothiopyrano[3,2-b]indole (1.2 g) in benzene (12 ml) is added 10% solution (3.2 g) of methylamine in benzene. The mixture is stirred at room temperature for 2.5 hours and then evaporated to give 4-methyliminomethyl-5-methyl-2,3,4,5-tetrahydrothiopyrano[3,2-b]indole as an oil.

reactant | 4-formyl-5-methyl-2,3,4,5-tetrahydrothiopyrano[3,2-b]indole | 1.2 g | C(=O)C1CCSC2=C1N(C=1C=CC=CC21)C | C13H13NOS
reactant | methylamine | CN | CH5N
solvent | benzene | 12 ml | C1=CC=CC=C1 | C6H6
product | 4-methyliminomethyl-5-methyl-2,3,4,5-tetrahydrothiopyrano[3,2-b]indole | CN=CC1CCSC2=C1N(C=1C=CC=CC21)C | C14H16N2S
